US06020329
(g) t-Butyl (6R,7R)-7-[2-(Z)-Methoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-[(RS)-tetrahydrofuran-3-yl]ceph-3-em-4-carboxylate
2-(Z)-Methoxyimino-2-(2-tritylaminothiazol-4-yl)acetic acid hydrochloride (0.751g) in DMF (5ml) was treated with methanesulphonyl chloride (0.179g, 0.121ml) and diisopropylethylamine (0.404g, 0.544ml) as described in Example 1(g). This was then treated with t-butyl (6R,7R)-7-amino-3-[(RS)-tetrahydrofuran-3-yl]ceph-3-em-4-carboxylate (0.464g) and pyridine (0.112g, 0.114ml) in DMF (5ml). Following work up and purification by flash chromatography with 40, 50 and 60% ethyl acetate/hexane, the title compound was obtained as a yellow foam (0.874g, 82%); vmax (CH2Cl2) 3398, 1783, 1731 (shoulder), 1718 and 1688cm-1 ; δH (CDCl3) 1.53 (9H, s), 1.69-2.43 (3H, m's), 3.29 and 3.46 with 3.34 and 3.48 (2H, 2ABq's, J 17.7 and 17.7Hz), 3.63-4.07 (6H, m's and s), 5.03 and 5.06 (1H, 2d's, J 4.8 and 4.8Hz), 5.84-5.90 (1H, m), 6.73 and 6.74 (1H, 2s), 6.76 and 6.90 (1H, 2d's, J 8.7 and 8.7Hz exchangeable with D2O), 7.02 (1H, br. s, exchangeable with D2O) and 7.31 (15H, s). [Mass spectrum: +ve ion (3NOBA, Na+) MNa+ (774)].

reactant | 2-(Z)-Methoxyimino-2-(2-tritylaminothiazol-4-yl)acetic acid hydrochloride | 0.751g | Cl.CO\N=C(/C(=O)O)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | methanesulphonyl chloride | 0.121ml, 0.179g | CS(=O)(=O)Cl | CH3ClO2S
reactant | diisopropylethylamine | 0.544ml, 0.404g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | t-butyl (6R,7R)-7-amino-3-[(RS)-tetrahydrofuran-3-yl]ceph-3-em-4-carboxylate | 0.464g | N[C@H]1[C@@H]2N(C(=C(CS2)C2COCC2)C(=O)OC(C)(C)C)C1=O | C15H22N2O4S
solvent | DMF | 5ml | CN(C)C=O | C3H7NO
solvent | DMF | 5ml | CN(C)C=O | C3H7NO
solvent | pyridine | 0.114ml, 0.112g | N1=CC=CC=C1 | C5H5N
product | t-Butyl (6R,7R)-7-[2-(Z)-Methoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-[(RS)-tetrahydrofuran-3-yl]ceph-3-em-4-carboxylate | CO\N=C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C2COCC2)C(=O)OC(C)(C)C)C1=O)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C40H41N5O6S2
